US07981903B2
1-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine (580 mg, 2.3 mmol) was dissolved in acetonitrile (10 mL). Potassium carbonate (952 mg, 6.9 mmol) and 1-iodopropane (0.344 mL, 3.45 mmol) were added. Reaction was stirred at it for 60 h. At this time the reaction mixture was diluted with dichloromethane and washed with a saturated sodium bicarbonate solution, water and a saturated sodium chloride solution, dried over Na2SO4 and filtered. Solvents were removed under reduced pressure and purified by SiO2 chromatography to afford 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine (0.565 g, 1.92 mmol). ESIMS (M+H)+=295.

reactant | 1-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine | 2.3 mmol, 580 mg | COC=1C=C(C=CC1[N+](=O)[O-])N1CCNCCC1 | C12H17N3O3
reactant | Potassium carbonate | 6.9 mmol, 952 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 3.45 mmol, 0.344 mL | ICCC | C3H7I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine | 1.92 mmol, 0.565 g | CC(C)N1CCN(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C15H23N3O3
